US09119868B2
Step 5: 6-(N-(4-bromo-3-chloro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
LiBH4 (2.85 ml, 5.71 mmol) solution (2M in THF) was added dropwise to a 0° C. solution of methyl 2-bromo-3-chloro-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate (1.24 g, 1.90 mmol) in Tetrahydrofuran (THF) (13.5 ml) and Methanol (1.3 ml). The reaction mixture was stirred at 0° C. for 1 h and quenched with 1M NaOH. The reaction mixture was diluted with EtOAc and water. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. The crude alcohol was taken up in THF (14 mL). DIEA (1.0 ml, 5.71 mmol) and MOM-Cl (0.36 ml, 4.76 mmol) were added and the reaction mixture was stirred at 50° C. overnight. Sat′d NaHCO3 was added and the mixture was extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (0-50% EtOAc/hexanes) to obtain the title compound (1.08 g, 85%) as a white foam. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.86-7.93 (m, 2H), 7.61 (s, 1H), 7.50 (d, 1H), 7.49 (s, 1H), 7.42 (d, J=2.83 Hz, 1H), 7.18-7.25 (m, 2H), 5.80 (br. s., 1H), 4.73 (s, 2H), 4.62 (s, 2H), 3.38 (s, 3H), 3.27 (s, 3H), 3.01 (d, J=4.98 Hz, 3H), 2.05-2.14 (m, 1H), 0.75-1.11 (m, 3H), 0.58 (br. s., 1H).

reactant | LiBH4 | 5.71 mmol, 2.85 ml | [Li+].[BH4-]
reactant | methyl 2-bromo-3-chloro-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)benzoate | 1.90 mmol, 1.24 g | BrC1=C(C(=O)OC)C=C(C=C1Cl)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H23BrClFN2O6S
reactant | DIEA | 5.71 mmol, 1.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | MOM-Cl | 4.76 mmol, 0.36 ml | C(OC)Cl | C2H5ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 13.5 ml | O1CCCC1 | C4H8O
solvent | Methanol | 1.3 ml | CO | CH4O
product | 6-(N-(4-bromo-3-chloro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 1.08 g, 85% | BrC1=C(C=C(C=C1COCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C29H27BrClFN2O6S
